US06440648B1
To a vigorously-stirred, biphasic mixture of 1-tetradecylamine (9.44 g, 44.2 mmol) in CH2Cl2 (300 mL) and potassium bicarbonate (21.8 g, 158 mmol) in H2O (200 mL) was added (dropwise) a 1.93 M solution of phosgene in toluene (30.0 mL, 57.9 mmol) at 0° C. After 30 min, the organic layer was separated and dried over MgSO4. The volatile components were removed with a rotary evaporator to afford crude tetradecyl isocyanate which was immediately taken up in THF (15 mL) and added to a heterogeneous mixture of 5,6-dichlorobenzotriazole (5.94 g, 31.6 mmol) and THF (125 mL). The reaction mixture was stirred at ambient temperature for 14 h, and the volatile components were then removed with a rotary evaporator. The crude product was first purified by silica gel column chromatography (heptane:ethyl acetate=7:3) and then recrystallized from ethanol to afford 12.2 g (90%) of D12.

reactant | 1-tetradecylamine | 44.2 mmol, 9.44 g | C(CCCCCCCCCCCCC)N | C14H31N
reactant | potassium bicarbonate | 158 mmol, 21.8 g | C([O-])(O)=O.[K+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 57.9 mmol, 30.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 200 mL | O | H2O
product | tetradecyl isocyanate | C(CCCCCCCCCCCCC)N=C=O | C15H29NO
